US03947473
To an ice-cooled mixture of 3.37 g. of aluminum chloride and 40 ml. of methylene chloride was added, dropwise, 3.37 ml. of nitromethane. The resulting solution was stirred 5 minutes, and then 5.114 g. of trimethylhydroquinone was added in one portion. The green mixture was cooled to -20° and a solution of 5.35 g. of 3-hydroxy-3-methyl-4-pentenyl acetate in 20 ml. of methylene chloride was added over 1.0 hour. The mixture was allowed to warm to room temperature, kept there for 2 hours and poured into ice-H2O. The mixture was extracted with methylene chloride and the organic solutions were washed with saturated sodium bicarbonate solution and brine and dried over sodium sulfate. Solvent removal gave crude (±)-2-(2-acetoxyethyl)-6-hydroxy-2,5,7,8-tetramethylchroman as a red oil.

reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | trimethylhydroquinone | CC=1C(=C(C(=C(O)C1)C)C)O | C9H12O2
reactant | 3-hydroxy-3-methyl-4-pentenyl acetate | C(C)(=O)OCCC(C=C)(C)O | C8H14O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | nitromethane | [N+](=O)([O-])C | CH3NO2
product | (±)-2-(2-acetoxyethyl)-6-hydroxy-2,5,7,8-tetramethylchroman | C(C)(=O)OCCC1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C | C17H24O4
